US07030123B2
4-(4-Acetylaminophenoxy)-2-amino-nitrobenzene (46.57 g) was prepared from 4-acetylaminophenol (30.2 g; 0.2 mol) using the general method described for 4-(4-hydroxyphenylsulphanyl)-2-amino-nitrobenzene in Example 2, except that one equivalent of NaH was used.

reactant | 4-acetylaminophenol | 0.2 mol, 30.2 g | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
reactant | 4-(4-hydroxyphenylsulphanyl)-2-amino-nitrobenzene | OC1=CC=C(C=C1)SC1=CC(=C(C=C1)[N+](=O)[O-])N | C12H10N2O3S
reactant | NaH | one equivalent | [H-].[Na+]
product | 4-(4-Acetylaminophenoxy)-2-amino-nitrobenzene | 46.57 g | C(C)(=O)NC1=CC=C(OC2=CC(=C(C=C2)[N+](=O)[O-])N)C=C1 | C14H13N3O4
